US07064123B1
A mixture of 2-methylene-4-morpholin-4-yl-4-oxo-butyric acid (2 g, 10.03 mmol), in DMF (5 mL), 2-trifluoromethylbenzyl mercaptan (1.93 g, 10.03 mmol) and DMAP (122 mg, 1.0 mmol) was stirred at ambient temperature for 16 hours. Methanol (200 mL) and a saturated aqueous solution of Oxone® (20 g, 32.5 mmol) were added with continued stirring for 2 hours. Methanol was removed under vacuum and the aqueous residue was diluted with 200 mL of water. The crystallized product was filtered, washed with water, and dried under vacuum to yield 4-morpholin-4-yl-4-oxo-2-(2-trifluoromethyl-benzylsulfonylmethyl)-butyric acid (0.95 g) as a white solid.

reactant | 2-methylene-4-morpholin-4-yl-4-oxo-butyric acid | 10.03 mmol, 2 g | C=C(C(=O)O)CC(=O)N1CCOCC1 | C9H13NO4
reactant | 2-trifluoromethylbenzyl mercaptan | 10.03 mmol, 1.93 g | FC(C1=C(CS)C=CC=C1)(F)F | C8H7F3S
reactant | Methanol | 200 mL | CO | CH4O
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 1.0 mmol, 122 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-morpholin-4-yl-4-oxo-2-(2-trifluoromethyl-benzylsulfonylmethyl)-butyric acid | 0.95 g | N1(CCOCC1)C(CC(C(=O)O)CS(=O)(=O)CC1=C(C=CC=C1)C(F)(F)F)=O | C17H20F3NO6S
